Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Bactrim / Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
headache
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ y/o woman with PMH notable for migraine 
headaches, cerebral aneurysm s/p clipping at ___, and 
fibromyalgia who presents with headache. She describes acute 
onset of left sided headache associated with photophobia and 
nausea earlier today while on the way to see her therapist. She 
made it to her therapist's office but immediately went in to the 
restroom and vomited. She then slumped on to the floor and the 
office staff call ___. She reports peripheral field visual 
deficits with the onset of the headache. Headache is throbbing 
in nature. Associted with some neck and back pain as well as 
epigastric abdominal pain. She denies fevers but endorses chills 
earlier in the day. She cannot pinpoint a trigger for her 
migraines except that she often gets them when she does not eat. 
She reports eating breakfast prior to leaving the house earlier 
today.  
.  
In the ED, initial vitals were T 98.2, HR 67, BP 127/80, RR 14, 
100% on RA. She had a CTA due to h/o aneurysm which is negative 
on preliminary read. Urine HCG is negative. She received 
multiple treatments including zofran 4 mg X 2, sumatriptan 6 mg 
SC X 2, prochlorperazine 10 mg IV X 2, ativan 2 mg (0.5 mg X 2 
then 1 mg), and dilaudid 0.5 mg IV X 1. She typically wears a 
fentanyl patch (100 mcg/hr) for her fibromyalgia and this was 
changed in the ED. She received 3.5 L NS over the course of her 
ED stay.  
.  
On arrival to the floor, the patient notes that the headace is 
improved but not totally resolved (now ___ instead of ___. 
The visual field deficits, which she can get with her headaches 
but usually not so suddenly, resolved after a few hours. She 
reports ongoing nausea. She states that dilaudid and compazine 
typically work for her migraines; she has been taking her 
sumatriptan at home every few weeks. She previously had 
migraines daily. Her last hospitalization for migraines was 
several months ago per her report. She endorses a mild sore 
throat over the past several days; she tells me her children 
were recently diagnosed with hand foot & mouth disease.  

 
Past Medical History:
migraine headaches  
h/o anterior circulation cerebral aneurysm s/p R frontotemporal 
craniotomy at ___ in ___ for clipping  
fibromyalgia  
h/o anorexia 

 
Social History:
___
Family History:
 Father with subarachnoid hemorrhage. Sister with HTN. Diabetes 
and hypercholesterolemia also run in her family. 
 
Physical Exam:
PE: T: 97.6 BP: 98/62 HR: 78 RR: 16 O2 99% RA  
Gen: Pleasant young female in no distress, lying in bed, 
occasionally shielding her eyes from ambient light  
HEENT: normocephalic, PERRL, + photophobia, EOMI, visual fields 
full to confrontation testing, tongue moist & midline, OP clear  

NECK: supple, no lymphadenopathy, no meningismus  
CV: RRR, no murmurs  
LUNGS: clear bilaterally  
ABD: soft, nontender throughout, + BS  
EXT: warm, DP pulses 2+ bilaterally, no edema  
SKIN: No rash  
NEURO: sleeping on my arrival in to room but arousable to voice, 
oriented X 3, PERRL, EOMI, face symmetric and muscles of facial 
expression intact, jaw clench intact, facial sensation intact to 
light touch, shoulder shrug intact, tongue midline with full 
range of motion, strength ___ in bilateral intrinsic hand 
muscles, grip, biceps, triceps, hip flexion, ankle dorsiflexion 
& plantarflexion; sensation intact to light touch on arms & 
legs, reflexes 2+ at biceps & patellae bilaterally, no pronator 
drift  

 
Pertinent Results:
CTA HEAD:  IMPRESSION: 
1. No evidence for new aneurysm or other vascular anomalies. 
2. No acute intracranial pathology identified. 
3. Aneurysm clip in the right supraclinoid region with evidence 
of prior 
right temporal craniotomy. 
.
Lab Results:
___ 03:40PM BLOOD WBC-6.6 RBC-4.58 Hgb-13.3 Hct-38.0 MCV-83 
MCH-29.1 MCHC-35.1* RDW-12.5 Plt ___
___ 06:25AM BLOOD WBC-8.1 RBC-4.00* Hgb-11.6* Hct-33.1* 
MCV-83 MCH-28.9 MCHC-35.0 RDW-12.6 Plt ___
___ 06:45AM BLOOD WBC-4.5 RBC-3.78* Hgb-10.9* Hct-31.3* 
MCV-83 MCH-28.7 MCHC-34.7 RDW-12.5 Plt ___
___ 03:40PM BLOOD Neuts-86.4* Lymphs-11.5* Monos-1.5* 
Eos-0.2 Baso-0.3
___ 03:40PM BLOOD ___ PTT-31.4 ___
___ 03:40PM BLOOD Glucose-124* UreaN-13 Creat-0.8 Na-140 
K-3.9 Cl-106 HCO3-27 AnGap-11
___ 06:25AM BLOOD Glucose-92 UreaN-12 Creat-0.7 Na-141 
K-3.8 Cl-109* HCO3-25 AnGap-11
___ 06:45AM BLOOD Glucose-92 UreaN-8 Creat-0.8 Na-144 K-3.5 
Cl-109* HCO3-29 AnGap-10
___ 03:40PM BLOOD Calcium-9.5 Phos-1.8* Mg-1.9
___ 06:45AM BLOOD Calcium-8.6 Phos-3.4 Mg-1.___ year old woman with PMH notable for migraine headaches and 
prior cerebral aneurysm s/p coiling at ___ in ___ admitted with 
headache similar to prior migraines.  
.  
# Migraine headache: Presentation seemed slightly more acute but 
similar to prior episodes of migraine headache. She received a 
maximum dose of sumatriptan in the ED prior to admission.  The 
ED resident contacted neurology who recommended potentially 
giving steroids, but the patient declined this as steroids make 
her psychotic per her report.  She was fluid resuscitated given 
dehydration likely contributed to her headache.  She received a 
head CTA given her prior history of cerebral aneurysm which did 
not show evidence of acute process.  The patient was continued 
on IV pain medication until she was able to tolerate POs.  She 
was treated with antiemetics PRN.  Her symptoms improved prior 
to discharge, but had not resolved completely.  She was referred 
to the Headache clinic on discharge for potential prophylactic 
medication initiation.  
.  
# History of aneurysm:  Had head CTA in the ED, with no new 
aneurysm or other acute process.  The patient did not have focal 
neurologic deficits during her admission.    
.  
# Anxiety:  Continued klonopin and serax at home doses. 
Continued effexor and wellbutrin.  
.  
# Chronic pain/Fibromyalgia: Continued home fentanyl patch at 
100 mcg/hour.  
.  
# COMM: with patient and husband ___ ___
 
___ on Admission:
* imitrex intranasal  
* effexor 150 mg daily  
* wellbutrin 75 mg daily  
* prenatal vitamin daily  
* klonopin 0.5 mg TID  
* serax 30 mg TID (usually takes 30 mg in the AM and 60 mg 
before bed)  
* fentanyl patch 100 mcg daily (for chronic pain syndrome)  
* tylenol ___ prn to sleep  
 
Discharge Medications:
1. Imitrex 5 mg/Actuation Spray, Non-Aerosol Sig: One (1)  Nasal 
once a day as needed for headache.  
2. Venlafaxine 75 mg Capsule, Sust. Release 24 hr Sig: Two (2) 
Capsule, Sust. Release 24 hr PO DAILY (Daily).  
3. Bupropion HCl 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. Prenatal ___ mg Tablet Sig: One (1) Tablet PO once a day.  

5. Clonazepam 0.5 mg Tablet Sig: One (1) Tablet PO TID (3 times 
a day) as needed for anxiety.  
6. Oxazepam 10 mg Capsule Sig: Three (3) Capsule PO TID (3 times 
a day) as needed for anxiety, insomnia.  
7. Fentanyl 100 mcg/hr Patch 72 hr Sig: One (1) Patch 72 hr 
Transdermal Q72H (every 72 hours).  
8. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for pain/fever.  
9. Cyclobenzaprine 10 mg Tablet Sig: One (1) Tablet PO TID (3 
times a day) as needed for neck pain for 5 days.
Disp:*20 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Migraine Headache
Viral Illness
Fibromyalgia
.
Secondary Diagnoses:
anterior circulation cerebral aneurysm 
H/o anorexia

 
Discharge Condition:
The patient continued to have headache pain, but much improved 
from when she was admitted.  The patient was hemodynamically 
stable and afebrile prior to discharge.

 
Discharge Instructions:
You were admitted to ___ for evaluation of a headache.  You 
were found to have a viral illness that was thought to have 
caused your migraine symptoms.  You were treated with IV and by 
mouth medications.  You had a head CT which did not show any 
evidence of acute process.
.
None of your home medications were changed.
.
You can take Cyclobenzaprine 10mg up to three times a day for 
neck pain.
.
If you experience worsening headache, numbness, tingling or 
weakness, fevers, chills, or any other concerning symptoms 
please seek medical attention
 
Followup Instructions:
___